US08048887B2
Ethyl 6-amino-5-(3-(tert-butoxycarbonyl)phenyl)-2-(4-fluorophenyl)benzofuran-3-carboxylate
Iron (28 mg, 0.495 mmol) was added to a stirring solution of ethyl 5-(3-(tert-butoxycarbonyl)phenyl)-2-(4-fluorophenyl)-6-nitrobenzofuran-3-carboxylate (50 mg, 0.099 mmol) in EtOH (495 μL) and AcOH (495 μL) at 100° C. It was allowed to stir for 1 hr. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give the titled compound (45 mg, 96%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.99-8.06 (2H, m), 7.89-7.96 (2H, m), 7.65-7.72 (1H, m), 7.61 (1H, t, J=7.65 Hz), 7.55 (1H, s), 7.31-7.40 (2H, m), 7.00 (1H, s), 5.10 (2H, br. s.), 4.29 (2H, q, J=7.03 Hz), 1.56 (9H, s), 1.26 (3H, t, J=7.15 Hz). LC-MS retention time: 2.03 min; m/z (MH+): parent does not ionize. 420 (−tBu) was observed. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | ethyl 5-(3-(tert-butoxycarbonyl)phenyl)-2-(4-fluorophenyl)-6-nitrobenzofuran-3-carboxylate | 0.099 mmol, 50 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OCC)C1)[N+](=O)[O-] | C28H24FNO7
solvent | EtOH | 495 μL | CCO | C2H6O
solvent | AcOH | 495 μL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Iron | 0.495 mmol, 28 mg | [Fe] | Fe
product | Ethyl 6-amino-5-(3-(tert-butoxycarbonyl)phenyl)-2-(4-fluorophenyl)benzofuran-3-carboxylate | 45 mg, 96% | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OCC)C=C1C1=CC(=CC=C1)C(=O)OC(C)(C)C | C28H26FNO5
